US06800629B2
At a water-cooled temperature, 2.2 g of 6-fluoro-3-oxo-3,4-dihydro-2-pyrazinecarbonitrile was dissolved in an aqueous solution of sodium hydroxide prepared from 1.27 g of sodium hydroxide and 24.2 ml of water. After adding 2.75 ml of 30% hydrogen peroxide at the same temperature as above, the mixture thus formed was stirred at 40° C. for 1.5 hours. After dropwise adding 2.77 mL of concentrated sulfuric acid to the reaction mixture obtained above while cooling it with ice, the mixture thus formed was cooled to 10° C. The deposited crystalline product was collected by filtration and washed with 2 mL of cold water to obtain 2.2 g of 6-fluoro-3-hydroxy-2-pyrazinecarboxamide as a light yellow-colored solid product.

reactant | water | O | H2O
reactant | 6-fluoro-3-oxo-3,4-dihydro-2-pyrazinecarbonitrile | 2.2 g | FC1=CNC(C(=N1)C#N)=O | C5H2FN3O
reactant | water | 24.2 ml | O | H2O
reactant | hydrogen peroxide | 2.75 ml | OO | H2O2
reactant | sulfuric acid | 2.77 mL | S(O)(O)(=O)=O | H2O4S
solvent | sodium hydroxide | [OH-].[Na+]
solvent | sodium hydroxide | 1.27 g | [OH-].[Na+]
product | 6-fluoro-3-hydroxy-2-pyrazinecarboxamide | 2.2 g | FC1=CN=C(C(=N1)C(=O)N)O | C5H4FN3O2
